US04057418
950 g (5 moles) of 2,5-dichloro-benzoic acid were suspended in 6 l of concentrated sulfuric acid. A mixture of 500 g of concentrated sulfuric acid and 400 g of nitric acid (D = 1.5) was added dropwise at 5° C to 10° C. The reaction mixture was stirred for 15 hours at 20°-25° C and was then poured onto 40 kg of ice. The precipitate which had separated out was filtered off, washed with 20 l of water and dried. The ultimate purification was carried out by recrystallization from 1.7 l of acetonitrile/water (9:1). 990 g (84% of theory) of 2,5-dichloro-3-nitrobenzoic acid were obtained in the form of colorless crystals of melting point 216°-218° C (with decomposition).

reactant | 2,5-dichloro-benzoic acid | 5 moles, 950 g | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
reactant | nitric acid | 400 g | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 6 l | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 500 g | S(O)(O)(=O)=O | H2O4S
product | 2,5-dichloro-3-nitrobenzoic acid | 990 g, 84% | ClC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])Cl | C7H3Cl2NO4
